US05723475
Synthesis of 5-(3-chloropropylsulfonyl)-2,3,4,5-tetrahydro-1,5-benzoxazepine (17)
2,3,4,5-tetrahydro-1,5-benzoxazepine and 3-chloropropanesulfonyl chloride were used to produce the above compound in the same way as Reference Example 8.

reactant | 2,3,4,5-tetrahydro-1,5-benzoxazepine | O1CCCNC2=C1C=CC=C2 | C9H11NO
reactant | 3-chloropropanesulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
product | 5-(3-chloropropylsulfonyl)-2,3,4,5-tetrahydro-1,5-benzoxazepine | ClCCCS(=O)(=O)N1CCCOC2=C1C=CC=C2 | C12H16ClNO3S
